Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___
 
Chief Complaint:
Chest pain- STEMI
 
Major Surgical or Invasive Procedure:
Cardiac catheterization
 
History of Present Illness:
Ms. ___ is a ___ year old woman with history of HTN, colon 
carcinoma s/p resection and ileostomy, and Alzheimers admitted 
for STEMI. In brief, ___ awoke at 2am with non radiating 
left-sided chest pressure accompanied by nausea. Had never 
experienced this pain before and was concerned her heart might 
be involved. EKG was performed at ___, where she has 
been staying and was concering for STEMI. She received aspirin, 
NTG and morphine and was sent to the ___ for further 
management. At the ___, EKG confirmed STEMI- she was loaded 
with clopidogrel 300 mg in the ED, received metoprolol 5mg x 2, 
eptifibatide, and started on a heparin drip. She underwent 
cardiac catheterization which showed RCA mid and distal 
occlusion. She was stented with two BMS. During the cath, pt 
required 2 doses of atropine for bradycardia, however was 
hemodynamically stable following the procedure. She tolerated 
the procedure well, without complications and was transferred to 
the floor for further management.
.
She reported s/p cath she was doing well and had not experienced 
any further chest pain or pressure. She denied SOB, nausea, and 
palpitations. 
.
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. She denies recent fevers, chills or 
rigors. She denies exertional buttock or calf pain. All of the 
other review of systems were negative.
.
*** Cardiac review of systems is notable for absence of dyspnea 
on exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle 
edema, palpitations, syncope or presyncope. 
 
Past Medical History:
-Peripheral neuropathy on neurontin, tylenol
-Alzheimer disease
-depression
-colon cancer, s/p resection, ileostomy
-depression
-anemia, B12 deficiency
-s/p cataract extraction
-rhinitis
-macular degeneration
-hx paranoid delusions
-hx incisional hernia
-hx falls
.
Cardiac Risk Factors: - Diabetes, - Dyslipidemia, +Hypertension 
 
Social History:
___
Family History:
NC
 
Physical Exam:
VS - 98.0 107/66 70 18 100% 2L
Gen: pleasant elderly woman sitting in bed, in NAD. oriented to 
person, hospital and month. occasionally garbled speech.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. clear oropharynx
Neck: Supple, no JVD.
CV: frequent PVCs- every 7 or 8 beats, with compensatory pause. 
normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
Chest: resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.
Abd: Soft, NTND. Ileostomy in place in LLQ, with stool in bag. 
sizable incisional hernia.
Ext: No clubbing/cyanosis/edema.
Cath site: L femoral- dressing clean/dry/intact; no femoral 
bruit; no hematoma or ecchymoses appreciated; distal PTs and DPs 
2+.
.
Pulses:
Right: Carotid 2+ Femoral 2+ DP 2+ ___ 2+
Left: Carotid 2+ Femoral 2+ DP 2+ ___ 2+
 
Pertinent Results:
___ 04:25AM   cTropnT-0.11*
___ 04:25AM   CK(CPK)-78
___ 09:35AM   CK-MB-85* MB INDX-9.8* cTropnT-3.74*
___ 09:35AM   CK(CPK)-870*
___ 05:32PM   CK-MB-51* MB INDX-7.4*
___ 05:32PM   CK(CPK)-686*
___ 09:35AM   WBC-7.2 RBC-3.37* HGB-11.1* HCT-32.5* MCV-96 
MCH-33.0* MCHC-34.2 RDW-14.2
___ 04:25AM   GLUCOSE-143* UREA N-27* CREAT-1.0 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-26 ANION GAP-14
___ 04:25AM   ___ PTT-25.1 ___

GENERAL URINE INFORMATION Type Color ___ 
___ 01:16      Straw Hazy 1.010 
Source: ___ 
DIPSTICK URINALYSIS 
Blood Nitrite Protein Glucose Ketone 
TR NEG NEG NEG NEG NEG NEG 
Bilirub Urobil  PH  Leuk                                         

Neg       Neg   5.0  LG   
___ 01:16     
Source: ___ 
MICROSCOPIC URINE EXAMINATION RBC WBC Bacteri Yeast Epi TransE 
RenalEp 
___ 01:16               3* 51* NONE NONE ___ EKG: Sinus rhythm. P-R interval prolongation. Right 
bundle-branch block. There is ST segment elevation in the 
inferior and lateral leads of
one to three millimeters. There is also ST segment depression in 
the anterior leads. These findings are consistent with acute 
inferolateral myocardial infarction. No previous tracing 
available for comparison. 

___ Cardiac Cath- 1. Selective coronary angiography in this 
right dominant system demonstrated single vessel disease.  The 
LMCA was normal.  The LAD had minimal disease. The LCx was 
normal. The RCA had an 80% mid-vessel lesion and was totally 
occluded distally before the bifurcation with faint left-sided 
collaterals. 2. Limited resting hemodynamics revealed mildly 
elevated left sided filling pressures with LVEDP of 20 mm Hg.  
There was no gradient on pullback of the catheter from the LV to 
the aorta.  There was moderate systemic hypertension at the 
start of the case with SBP of 156 mm Hg and 82 mm Hg. 3. 
Successful primary percutaneous coronary intervention to RCA 
with bare metal stents x2. Recommend ASA/Plavix ideally for at 
least 12 months.

___ EKG- Baseline artifact. Sinus rhythm. P-R interval 
prolongation. Compared to tracing #2 inferolateral acute 
myocardial infarction pattern has improved but still persists. 

___ CXR- 1. No acute cardiopulmonary process, including 
no evidence for pneumonia or congestive failure. 2. Likely 10-mm 
left pulmonary nodule. Comparison with prior imaging to 
establish stability would be helpful. Alternatively, 
cross-sectional imaging can be considered as clinically 
indicated. 3. Right paratracheal soft tissue prominence, 
possibly representing thyroid enlargement versus adenopathy.

___ Echo: The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. There is mild regional left ventricular systolic 
dysfunction with inferior akinesis. No masses or thrombi are 
seen in the left ventricle. There is no ventricular septal 
defect. Right ventricular chamber size and free wall motion are 
normal. The aortic root is mildly dilated at the sinus level. 
The ascending aorta is mildly dilated. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. 
Mild (1+) aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild to moderate (___) mitral regurgitation is seen. 
The tricuspid valve leaflets are mildly thickened. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion.
 
Brief Hospital Course:
Ms. ___ is a ___ year old women with history of HTN, colon 
carcinoma s/p resection and ileostomy, and Alzheimer's disease 
admitted with chest pain in the setting of  STEMI. Her hospital 
course by problem is as follows:
.
#. CAD - The ___ had no prior history of CAD and no history 
of chest pain. On arrival in the ED, EKG's confirmed STEMI in an 
infero-lateral distribution. The ___ was loaded with 
clopidogrel 300 mg in the ED, received asa, metoprolol 5mg x 2, 
eptifibatide, and started on a heparin drip. Cardiac markers 
were sent and eventually returned positive x 2 (Tn-I 0.11 and 
3.74). She underwent cardiac catheterization, which showed RCA 
mid and distal occlusions. PCI was performed and she received to 
bare metal stents. The procedure was without complications. She 
was continued on aspirin, clopidogrel, and metoprolol for the 
duration of her hospitalization and sent home on these drugs. 
Captopril was started and then held when the ___ experienced 
a couple of episodes of hypotension (see below). An 
echocardiogram was performed to evaluate post-MI functional 
status. It showed mild regional left ventricular systolic 
dysfunction with inferior akinesis, normal right ventricular 
chamber size and free wall motion, mild AR, and mild to moderate 
MR. ___ did not experience any further episodes of chest 
pain, palpitations, or nausea during her hospitalization.
.
#. Pump- The ___ had no history of cardiomyopathy or heart 
failure. However, given her inferior MI, there was concern for 
new right sided heart failure. ___ experienced a couple of 
episodes of hypotension (SBPs in the ___ which resolved with 
fluid boluses. Her captopril and home amlodipine were 
discontinued in order to keep her pressures and pre-load up. An 
echocardiogram was performed, which showed mild regional left 
ventricular systolic dysfunction with inferior akinesis, normal 
right ventricular chamber size and free wall motion, mild AR, 
and mild to moderate MR. ___ were no signs of right heart 
failure on echo. Although ___ had mild left ventricular 
dysfunction, she could not tolerate and ACE-I during her 
hospitalization due to her frequent low blood pressures. She was 
maintained on a beta blocker.
.
#. Rhythm - ___ had occasional PVCs (couplets and triplets), 
a couple of isolated runs of ventricular tachycardia (upto 8 
beats), and infrequent idioventricular rhythms on telemetry 
after her STEMI and cardiac catheterization. ___ remained 
asymptomatic. She was monitored on telemetry and her 
electrolytes were repleted as needed. 
.
#. HTN- ___ main cardiac risk factor was hypertension, but 
during this admission her pressures ran low, initially in the 
100s/60s. She had a few episodes of hypotension with SBPs in the 
___. She was asymptomatic and her pressures recovered with fluid 
boluses. Her home amlodipine was discontinued and her newly 
started captopril was discontinued to allow her pressures to 
recover. On discharge, her pressures were 120s-130s/60s-80s.
.
#. Chronic anemia- ___ hematocrit was stable during 
hospitalization. She did not experience any acute bleeds before 
or after cath. She was continued on her home B12 and iron, and 
her hematocrit was monitored. On discharge she was at her 
baseline with a Hct of 33.8 (was 34.8 prior to cath).
.
# Alzheimer's disease- ___ has some early stage dementia and 
was at her baseline during this hospitalization per her nephew. 
She was typically oriented x 2, with occasional memory and 
speech difficulties. She was continued on her home olanzapine. 
She had a couple episodes of agitation at night, and was found 
to have a urinary tract infection, for which she was treated 
with a 3 day course of Bactrim. On discharge Ms. ___ had 
returned to her baseline mental status.
.
# UTI- ___ experienced an altered mental status with 
increased agitation and change of demeanor. UA was sent and 
notable for 50WBC and large leuk esterase, without nitrates or 
bacteria. She was empirically treated with a 3 day course of 
bactrim. Urine culture was pending on discharge. 
.
# Peripheral neuropathy- She was continued on her home 
gabapentin and tylenol. No active issues during this 
hospitalization.
.
# Osteoporosis- No active issues during this hospitalization. 
She was continued on her home calcium carbonate and Vit D. 
.
# PPX- She was given heparin SQ for DVT prophylaxis. 
.
Ms. ___ agreed to be full code for this admission. On 
discharge, she returned back to her documented DNR/DNI status. 
. 
Issues to Follow Up:
- pending urine culture
- consideration of adding an ACE-I to her regimen pending her 
blood pressure control
 
Medications on Admission:
Norvasc 2.5 q AM
Ferrous gluconate 324 BID
Olanzapine 2.5 qHS
Tylenol ___ mg q12 hrs, 650 PRN
Vitamin D 1000 units q ___
Gabapentin 100 mg q 12
Calcium carbonate 1300 mg daily
Vitamin B12 100 mcg 
 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
3. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
4. Olanzapine 5 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  
5. Ferrous Gluconate 325 mg (37.5 mg Iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
6. Calcium Carbonate 500 mg (1,250 mg) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: 2.5 Tablets 
PO DAILY (Daily).  
8. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 12H 
(Every 12 Hours).  
9. Cyanocobalamin 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).
Disp:*30 Tablet(s)* Refills:*2*
11. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*2*
12. Sulfamethoxazole-Trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 3 doses.
Disp:*3 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
ST Elevation Myocardial Infarction 

Secondary:
Urinary tract infection
Peripheral neuropathy   
Alzheimer disease  
HTN
Anemia
Colon cancer, s/p resection, ileostomy  

 
Discharge Condition:
Mental Status: Alert and oriented x 2. Confused sometimes. At 
her baseline.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the hospital with chest pain. You suffered 
from a heart attack. You underwent cardiac catheterization and 
two stents were placed in your heart blood vessels to improve 
blood flow to the heart. There were no complications associated 
with the procedure. You were also diagnosed with a urinary tract 
infection while you were in the hospital, for which you are 
being treated with antibiotics.

Please make the following changes to your medication:
- please take aspirin 325 mg daily
- please take simvastatin 80 mg daily
- please take metoprolol 12.5 mg twice daily
- please take clopidogrel 75 mg daily. IT IS EXTREMELY IMPORTANT 
THAT YOU TAKE THIS MEDICATION EVERY DAY UNTIL YOUR DOCTOR TELLS 
YOU NOT TO. FAILURE TO DO SO COULD RESULT IN ANOTHER HEART 
ATTACK OR DEATH.
- please take Bactrim 1 tablet twice daily for 3 more doses to 
treat your urinary tract infection.

- please STOP taking your Norvasc.

You can take all your other medications as you were previously.

Please follow up with the cardiologist at the appointment 
scheduled below. We will contact you if an earlier appointment 
becomes available.

It was a pleasure taking care of you. We wish you a speedy 
recovery.
 
Followup Instructions:
___